US04046900
A sample of 65.4 g of 1-acetylisonipecotic acid is dissolved in 400 ml of thionyl chloride. The acid chloride precipitates from solution and one liter of petroleum ether is added. The mixture is filtered, the solid residue is washed several times with petroleum ether and dried, giving 1-acetylisonipecotoyl chloride as a white solid.

reactant | 1-acetylisonipecotic acid | 65.4 g | C(C)(=O)N1CCC(C(=O)O)CC1 | C8H13NO3
reactant | thionyl chloride | 400 ml | S(=O)(Cl)Cl | Cl2OS
product | 1-acetylisonipecotoyl chloride | C(C)(=O)N1CCC(C(=O)Cl)CC1 | C8H12ClNO2
